Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Bactrim / Aspirin / lactose / gluten / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
exam under anesthesia

 
Physical Exam:
PHYSICAL EXAM AT DISCHARGE
==========================
Vitals
24 HR Data (last updated ___ @ 434)
    Temp: 97.9 (Tm 97.9), BP: 109/66 (109-128/66-84), HR: 72
(72-75), RR: 18, O2 sat: 99% (99-100), O2 delivery: ra

Fluid Balance (last updated ___ @ 607)
  Last 8 hours  Total cumulative 53ml
    IN: Total 878ml, PO Amt 360ml, IV Amt Infused 518ml
    OUT:  Total 825ml, Urine Amt 825ml
  Last 24 hours  Total cumulative 53ml
    IN: Total 878ml, PO Amt 360ml, IV Amt Infused 518ml
    OUT:  Total 825ml, Urine Amt 825ml

General: NAD, A&Ox3
CV: RRR, no m/r/g
RESP: CTAB, no respiratory distress, normal work of breathing
Abd: soft, non-tender, no rebound or guarding
GU: scant spotting
Extremities: no calf tenderness, wwp, pboots on and active
bilaterally
 
Pertinent Results:
___ 08:21PM   PLT COUNT-267
___ 08:21PM   WBC-9.4 RBC-3.94 HGB-11.7 HCT-36.6 MCV-93 
MCH-29.7 MCHC-32.0 RDW-12.9 RDWSD-43.8
___ 09:36PM   ___ PTT-44.3* ___
___ 10:22PM   XI-32*
___ 10:22PM   ___ PTT-41.1* ___
 
Brief Hospital Course:
Ms. ___ has a known history of factor XI deficiency, and had 
previously undergone a cervical LEEP on ___. On ___ 
she presented with vaginal bleeding and was found to be bleeding 
from the LEEP bed. She was admitted to the GYN service after 
undergoing an exam under anesthesia for vaginal bleeding. Please 
see OMR for complete details. Immediately postoperatively, her 
pain was controlled with Tylenol and Dilaudid, NSAIDs were held 
given factor XI deficiency.  Her diet was advanced without 
difficulty, and she was voiding urine without complication.  She 
remained hemodynamically stable.

She was continued on levothyroxine for hypothyroidism, for GERD 
she was continued on omeprazole, for migraines she was continued 
on topiramate. 

On postop day 1, she was observed over several hours and her 
vaginal bleeding was  scant.  She was discharged in stable 
condition with outpatient follow-up scheduled.

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *acetaminophen [Acetaminophen Pain Relief] 500 mg ___ 
tablet(s) by mouth every 6 hours as needed Disp #*50 Tablet 
Refills:*1 
2.  Ascorbic Acid ___ mg PO BID 
take along with iron supplement 
RX *ascorbic acid (vitamin C) 500 mg 1 tablet(s) by mouth twice 
per day Disp #*60 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice per day 
Disp #*30 Capsule Refills:*1 
4.  Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice per day Disp #*60 Tablet Refills:*0 
5.  Citalopram 40 mg PO DAILY  
6.  Diazepam 5 mg PO DAILY  
7.  Levothyroxine Sodium 112 mcg PO DAILY  
8.  Omeprazole 40 mg PO BID  
9.  Topiramate (Topamax) 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vaginal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___:

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___